US09169259B2
A suspension of 6-fluoropyridin-2-amine (500 mg, 4.46 mmol), 3-tert-butylpyrrolidine (730 mg, 4.46 mmol) in water (0.5 mL) and triethylamine (0.9 g, 8.92 mmol) was heated to 150° C. in a microwave oven for 30 minutes. The reaction mixture was purified by chromatography (silica gel, 200-300 mesh, dichloromethane:MeOH=20:1) to give 6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-amine (540 mg, 55%) as a brown oil. LC-MS: [M+H]+, 220, tR=1.228 min.

reactant | 6-fluoropyridin-2-amine | 4.46 mmol, 500 mg | FC1=CC=CC(=N1)N | C5H5FN2
reactant | 3-tert-butylpyrrolidine | 4.46 mmol, 730 mg | C(C)(C)(C)C1CNCC1 | C8H17N
reactant | triethylamine | 8.92 mmol, 0.9 g | C(C)N(CC)CC | C6H15N
solvent | water | 0.5 mL | O | H2O
product | 6-(3-tert-butylpyrrolidin-1-yl)pyridin-2-amine | 540 mg, 55% | C(C)(C)(C)C1CN(CC1)C1=CC=CC(=N1)N | C13H21N3
